### PR TITLE
some refactoring suggestions

### PR DESCRIPTION
**Pull request by jcpaik**

### CODE REVIEW

File: BrunnMinkowski/BrunnMinkowski.lean [hunk 1]
```diff
@@ -4,6 +4,9 @@ import Mathlib.Order.CompletePartialOrder
 import BrunnMinkowski.EuclideanSpace
 import BrunnMinkowski.PrekopaLeindler
 
+import LeanSearchClient
+
+
```
Comment (jcpaik) [inline BrunnMinkowski/BrunnMinkowski.lean:9]:
```suggestion
```

File: BrunnMinkowski/BrunnMinkowski.lean [hunk 2]
```diff
@@ -122,9 +113,7 @@ theorem brunn_minkowski (A B : ConvexBody (ℝn n)) (ngz : n ≠ 0) :
 
       -- Modify the special case of Prékopa–Leindler
       simp [ind_A, ind_B, ind_ABsum] at prekopa_leinler_app
-      rw [hind_ConvBody_int_eq_vol A (by rfl),
-        hind_ConvBody_int_eq_vol B (by rfl),
-        hind_ConvBody_int_eq_vol (A + B) (by rfl)] at prekopa_leinler_app
+      simp only [hind_ConvBody_int_eq_vol _ (by rfl),] at prekopa_leinler_app
```
Comment (jcpaik) [inline BrunnMinkowski/BrunnMinkowski.lean:116]:
```suggestion
      rw [hind_ConvBody_int_eq_vol A (by rfl),
        hind_ConvBody_int_eq_vol B (by rfl),
        hind_ConvBody_int_eq_vol (A + B) (by rfl)] at prekopa_leinler_app
```

File: BrunnMinkowski/BrunnMinkowski.lean [hunk 3]
```diff
@@ -52,30 +49,24 @@ theorem brunn_minkowski (A B : ConvexBody (ℝn n)) (ngz : n ≠ 0) :
   let ninv := (n⁻¹ : ℝ)
   have hn_mul_ninv_eq_one : (n : ℝ) * ninv = 1 := by simp [ninv, ngz]
 
-  let Avol := A.volume
-  let Bvol := B.volume
+  set Avol := A.volume with eq_Avol
```
Comment (thegreatseo) [inline BrunnMinkowski/BrunnMinkowski.lean:52]: How are `eq_Avol` and `eq_Bvol` used later? (I've never seen the `set` command...)

File: BrunnMinkowski/BrunnMinkowski.lean [hunk 4]
```diff
@@ -52,30 +49,24 @@ theorem brunn_minkowski (A B : ConvexBody (ℝn n)) (ngz : n ≠ 0) :
...
+  · simp only [hAvol, ne_eq, inv_eq_zero, Nat.cast_eq_zero, ngz, not_false_eq_true,
+      NNReal.zero_rpow, zero_add, ge_iff_le, ninv]
     rw [add_comm, NNReal.rpow_le_rpow_iff]
     exact convbody_vol_le_vol_add_right B A
     positivity
-  by_cases hBvol_zero : B.volume = 0
+  rcases eq_zero_or_pos Bvol with hBvol | hBvol
   · -- Assume B.volume = 0
-    simp [hBvol_zero, ngz]
+    simp only [hBvol, ne_eq, inv_eq_zero, Nat.cast_eq_zero, ngz, not_false_eq_true,
```
Comment (thegreatseo) [inline BrunnMinkowski/BrunnMinkowski.lean:63]: Is it better to unfold `simp`?

File: BrunnMinkowski/BrunnMinkowski.lean [hunk 5]
```diff
@@ -52,30 +49,24 @@ theorem brunn_minkowski (A B : ConvexBody (ℝn n)) (ngz : n ≠ 0) :
   let ninv := (n⁻¹ : ℝ)
   have hn_mul_ninv_eq_one : (n : ℝ) * ninv = 1 := by simp [ninv, ngz]
 
-  let Avol := A.volume
-  let Bvol := B.volume
+  set Avol := A.volume with eq_Avol
+  set Bvol := B.volume with eq_Bvol
```
Comment (jcpaik) [inline BrunnMinkowski/BrunnMinkowski.lean:53]:
```suggestion
  set Avol := A.volume
  set Bvol := B.volume
```

File: BrunnMinkowski/BrunnMinkowski.lean (hunk 4 above)
Comment (jcpaik) [reply BrunnMinkowski/BrunnMinkowski.lean:63]: Could you have a look at https://github.com/Brunn-Minkowski-in-Lean/BrunnMinkowski/pull/6#discussion_r1936546130 ?
